US07737166B2
4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,N,5-trimethyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-2-carboxamide (#51)
Under nitrogen atmosphere, a dimethyl sulfoxide (2 ml) solution of (3S)-3-(dimethylamino)pyrrolidine (442 μl, 3.48 mmol) was added at 140 to 150° C. to a dimethyl sulfoxide (56 ml) solution of 4-cyano-7-fluoro-N,N,5-trimethyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-2-carboxamide (I-129) (1.00 g, 2.90 mmol) and triethylamine (525 μl, 3.77 mmol), followed by stirring at the same temperature for 10 minutes. After cooling, saturated brine was added to the reaction liquid, and the reaction liquid was extracted with ethyl acetate. Next, the combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with dichloromethane/methanol (10:1, v/v) gave a crude product of the entitled compound as a solid, and the solid was suspended and washed in diethyl ether to obtain the entitled compound (670 mg, 53%) as a yellow solid. The fraction containing impurities and the filtrate in suspension washing were recovered and purified in the same manner to obtain 145 mg of the entitled compound, 815 mg (64%) of the entitled compound was obtained in total.

reactant | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | (3S)-3-(dimethylamino)pyrrolidine | 3.48 mmol, 442 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | dimethyl sulfoxide | 56 ml | CS(=O)C | C2H6OS
reactant | 4-cyano-7-fluoro-N,N,5-trimethyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-2-carboxamide | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)F)C=2N=C(SC2)C)C | C16H13FN4O2S
reactant | triethylamine | 3.77 mmol, 525 μl | C(C)N(CC)CC | C6H15N
solvent | brine | [Cl-].[Na+].O
product | 4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,N,5-trimethyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-2-carboxamide | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)N2C[C@H](CC2)N(C)C)C=2N=C(SC2)C)C | C22H26N6O2S
